US07863291B2
To 4-chlorobenzo[d]thiazol-2-amine (1.12 g, 6.07 mmol) in acetonitrile (30 mL) was added 1,1′-thiocarbonyldiimidazole (1.405 g, 7.89 mmol). The reaction mixture was stirred at 50° C. for 18 hours. The reaction was cooled to room temperature and the precipitate was filtered and washed with acetonitrile (2×50 mL). The yellow powder was dried in a vacuum oven (40° C.) for 1 hour to yield N-(4-chlorobenzo[d]thiazol-2-yl)-1H-imidazole-1-carbothioamide (0.33 g, 1.12 mmol, 18.5% yield) and then used in the next step without any further purification or characterization.

reactant | 4-chlorobenzo[d]thiazol-2-amine | 6.07 mmol, 1.12 g | ClC1=CC=CC2=C1N=C(S2)N | C7H5ClN2S
reactant | 1,1′-thiocarbonyldiimidazole | 7.89 mmol, 1.405 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | N-(4-chlorobenzo[d]thiazol-2-yl)-1H-imidazole-1-carbothioamide | 1.12 mmol, 0.33 g, 18.5% yield | ClC1=CC=CC2=C1N=C(S2)NC(=S)N2C=NC=C2 | C11H7ClN4S2
